Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ambien / Percocet / Cephalosporins / oxycodone
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief, this is a ___ woman with complex PMH including 
childhood CML s/p HSCT, RCC s/p nephrectomy, HCV cirrhosis s/p 
TIPS and Harvoni, uterine rupture c/b cardiac arrest (EF 
recovered >55% in ___, moderate-severe pulmonary HTN, multiple 
prior admissions for myositis (believed to be infectious), now 
presenting with severe bilateral leg pain x 3 days consistent 
with her prior episodes of myositis.

In the ED:
- She had a low-grade fever to 99.6, tachycardia to 100s
- Legs were severely tender to palpation with linear 
erythematous patches
- Labs notable for WBC 30.6, CK 1062, CRP 282
- UA had 32 WBC, many bacteria (only 1 epi)
- CT bilateral ___ was c/w deep cellulitis and possible myositis 
but could not entirely rule out soft tissue gas.
- ACS was consulted and did not think nec fasc likely, 
recommended admission to Medicine for IV abx.
- Derm was consulted and felt her superficial lesions were 
consistent with non-specific capillaritis and deferred further 
workup and management of possible deeper infection to primary 
teams.
- She was started on vanc/meropenem (allergic to cephalosporins) 
and given 1.5L IVF.

This morning, patient continues to endorse severe leg pain, 
worst in left calf, also present in left thigh and right calf. 
Pain is worse with palpation and any movement. She denies 
fevers/chills, cough/SOB, N/V/D/abd pain, dysuria. 
 
Past Medical History:
#Renal cell CA ___ clear cell type, 1.5 cm, ___ Grade ___ 
s/p partial left nephrectomy
#Leukemia: treated at age ___ DFCI, CH, with chemotherapy, 
radiation as child s/p MRD from brother
#E.coli UTI, blood stream infection, and left calf pyomyositis 
___
#Hepatitis C genotype 1B
#Cirrhosis due to HCV: failed multiple curative treatments, 
due to undergo new therapy this year. Contracted from blood 
transfusion as a child. Stage 4 fibrosis, IL 28b
CC genotype. She is a non-responder to interferon and ribavirin
treatment on two occasions as well as a non-responder to a ___
clinical trial with 2 directly acting antivirals: Asunaprevir 
and
Daclatasvir. She has cords of grade II-III varices and is on 
nadolol. Not otherwise decompensated. 
#Hypothyroidism: ___ XRT
#s/p Supracervical Hysterectomy @ ___ for uterine rupture at 17 
weeks, thought due to weakened uterine wall from whole-body 
radiation. (___)
-Complicated by cardiac arrest in operating room, requiring 
15 minutes of compressions and six attempts at cardioversion. 
Complicated by suspected DIC. Required massive resuscitation.
#Partial anomalous pulmonary venous return with right upper
lobe pulmonary vein draining into the azygos.
#Mixed pulmonary hypertension secondary to cirrhosis and 
right-sided volume overload from PAPVR.
#Cardiomyopathy from cardiac arrest secondary to intrapartum 
ruptured uterus > ___ had normal biventricular fxn
#Moderate-severe TR
#Mild PH
#Tobacco abuse 

 
Social History:
___
Family History:
No family history of recurrent skin infections, renal cancer, 
leukemia, immune deficiency.
 
Physical Exam:
ADMISSION EXAM
===========================
 Vitals- 99.1 PO 115 / 59 107 18 97  
 GENERAL: AOx3, NAD  
 HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. No 
conjunctival pallor or injection, sclera anicteric and without 
injection. ___ clear bilaterally with normal light reflex. Dry 
MM.   
 NECK: Thyroid is normal in size and texture, no nodules. No 
cervical lymphadenopathy.  
 CARDIAC: Tachycardic with ___ systolic murmur LUSB  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
Resonant to percussion.  
 BACK: Skin. no spinous process tenderness. no CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. Tympanic to percussion. No 
organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
 SKIN: Marked areas of tender erythematous skin on Body, mainly 
LLE, clearly marked borders, some areas petechial  
 NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal 
sensation. No ataxia, dysmetria, disdiadochokinesia. Gait is 
normal.  

DISCHARGE EXAM
=======================
GEN: Very thin middle-aged woman.
CV: RRR, ___ crescendo-decrescendo systolic murmur heard 
throughout. 
RESP: Non-labored, CTAB.
ABD: Soft, NDNT, +BS. Tattoo on LLQ.
EXT: Areas of prior erythema marked with pen, minimally 
erythematous at this point (left leg, left thigh, right leg). 
Very tender to light touch, could not tolerate palpation. Tender 
with plantarflexion. 
NEURO: Alert and oriented, normal speech and memory. CN intact. 
PSYCH: Hostile and uncooperative. Poor insight and judgment.
 
Pertinent Results:
ADMISSION LABS
===========================
___ 01:00PM BLOOD WBC-30.6*# RBC-4.46 Hgb-14.2 Hct-42.8 
MCV-96 MCH-31.8 MCHC-33.2 RDW-14.2 RDWSD-50.3* Plt ___
___ 01:00PM BLOOD Neuts-87.3* Lymphs-3.9* Monos-6.8 
Eos-0.4* Baso-0.6 Im ___ AbsNeut-26.64*# AbsLymp-1.18* 
AbsMono-2.06* AbsEos-0.11 AbsBaso-0.17*
___ 01:00PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ 
Burr-OCCASIONAL
___ 01:00PM BLOOD ___ PTT-23.7* ___
___ 01:00PM BLOOD Glucose-75 UreaN-22* Creat-0.8 Na-135 
K-4.6 Cl-100 HCO3-19* AnGap-21*
___ 01:00PM BLOOD CK(CPK)-1062*
___ 02:00AM BLOOD ALT-28 AST-85* LD(LDH)-283* CK(CPK)-768* 
AlkPhos-111* TotBili-1.5
___ 06:40AM BLOOD ALT-29 AST-82* LD(___)-324* CK(CPK)-583* 
AlkPhos-123* TotBili-1.8*
___ 01:00PM BLOOD CK-MB-9 cTropnT-<0.01
___ 01:00PM BLOOD Calcium-9.1 Phos-2.4* Mg-2.3
___ 01:00PM BLOOD CRP-282.3*
___ 01:14PM BLOOD Lactate-3.5*
___ 09:57PM BLOOD Lactate-2.9*
___ 02:11AM BLOOD Lactate-2.4*
___ 02:40PM BLOOD Lactate-2.9*

___ 02:12PM URINE barbitr-NEG opiates-NEG cocaine-POS* 
amphetm-NEG oxycodn-NEG mthdone-NEG
___ 02:12PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:12PM URINE Blood-TR Nitrite-POS Protein-NEG 
Glucose-TR Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 02:12PM URINE RBC-1 WBC-32* Bacteri-MANY Yeast-NONE 
Epi-1
___ 02:12PM URINE UCG-NEGATIVE

IMPORTANT INTERVAL LABS
======================================
___ 06:30AM BLOOD Cryoglb-NO CRYOGLO
___ 02:00AM BLOOD TSH-7.6*
___ 06:30AM BLOOD HBsAg-Negative HBsAb-Borderline 
HBcAb-Negative
___ 02:00AM BLOOD CRP-201.3*
___ 01:00PM BLOOD C3-123 C4-7*
___ 06:40AM BLOOD C3-88* C4-5*
___ 06:30AM BLOOD HIV Ab-Negative
___ 01:00PM BLOOD Barbitr-NEG
___ 06:30AM BLOOD HCV VL-5.8*
___ 06:40AM BLOOD MYOSITIS ANTIBODY PROFILE-PND

DISCHARGE LABS
=======================================
___ 06:40AM BLOOD WBC-29.9*# RBC-3.97 Hgb-12.7 Hct-38.0 
MCV-96 MCH-32.0 MCHC-33.4 RDW-14.2 RDWSD-50.1* Plt ___
___ 06:40AM BLOOD Neuts-84.2* Lymphs-5.6* Monos-7.3 
Eos-0.9* Baso-0.7 Im ___ AbsNeut-25.19* AbsLymp-1.69 
AbsMono-2.18* AbsEos-0.27 AbsBaso-0.21*
___ 06:40AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 06:40AM BLOOD ___ PTT-31.6 ___
___ 06:40AM BLOOD Glucose-75 UreaN-10 Creat-0.6 Na-136 
K-4.3 Cl-101 HCO3-25 AnGap-14
___ 06:40AM BLOOD ALT-29 AST-82* LD(LDH)-324* CK(CPK)-583* 
AlkPhos-123* TotBili-1.8*
___ 06:40AM BLOOD Calcium-8.3* Phos-3.1 Mg-1.5*

MICRO
=========================================
___ CULTURE-FINAL {ESCHERICHIA COLI}EMERGENCY WARD
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of 2g every 8h. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

ALL NEGATIVE:
___ IgG ANTIBODY-FINAL; TOXOPLASMA IgM 
ANTIBODY-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALEMERGENCY WARD
___ Culture, Routine-FINALEMERGENCY WARD
___ Culture, Routine-FINALEMERGENCY WARD

STUDIES
==================================
+ ___ CT BILAT LOWER EXTREMITY W&W/O CONTRAST
IMPRESSION: 
1. Soft tissue edema tracking into the deep, medial portion of 
the left lower extremity suggestive of deep cellulitis and 
possible myositis. No evidence of drainable fluid collection. 
There are a few small hypodense foci in the deep soft tissues of 
the medial calf, which may represent insinuating fat, but 
difficult to entirely exclude soft tissue gas. 
2. No acute fracture seen. 

+ ___ LOWER EXT VEINS
No evidence of deep venous thrombosis in the left lower 
extremity veins within the limitations of this exam (see 
findings).

+ ___    CXR
AP portable upright view of the chest.  Lower lung opacity 
partially due to bilateral breast implants.  A TIPS shunt 
projects over the right upper abdomen.  An embolic coil is noted 
in the left upper quadrant.  The lungs appear clear without 
focal consolidation, large effusion or pneumothorax.  The 
cardiomediastinal silhouette is unchanged.  No signs of edema or 
congestion. Bony structures are intact.

 
Brief Hospital Course:
___ with complex PMH including childhood CML s/p HSCT, RCC s/p 
nephrectomy, HCV cirrhosis s/p TIPS and Harvoni, uterine rupture 
c/b cardiac arrest (EF recovered >55% in ___, moderate-severe 
pulmonary HTN, multiple prior admissions for myositis (believed 
to be infectious), admitted for recurrent severe bilateral leg 
pain x 3 days consistent with her prior episodes of myositis. 
She presented with leukocytosis to 30 and elevated lactate to 
3.5, but with stable hemodynamics. Although she had been treated 
with antibiotics on previous presentations, infection may be 
less likely as pt has never had a positive blood culture. She 
did have a positive urinalysis with GNRs in culture, although 
she was not having urinary symptoms. Rheumatology was consulted 
and did not feel that her presentation was an 
inflammatory/autoimmune phenomenon and did not recommend 
steroids. A tox screen was added on during admission, which 
noted a positive cocaine level in urine from admission, 
concerning for a possible cocaine-induced myopathy. A routine 
bed search was performed after this was explained to the 
patient. She insisted on being discharged AGAINST MEDICAL 
ADVICE. She was not discharged on any new medications. 

An MRI of the thigh and calf was ordered for further evaluation 
of myositis but not completed prior to discharge. Multiple labs 
tests were also pending upon discharge (see Results section).

TRANSITIONAL ISSUES:
[] Consider outpatient MRI of LLE to further evaluate myositis
[] Urine culture during hospitalization positive for E coli. 
Patient denied urinary symptoms. Consider treating for UTI if 
symptomatic.
[] Myositis antibody panel pending
[] HCV viral load positive this admission
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. LORazepam 0.5 mg PO QHS 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
4. Sumatriptan Succinate 50 mg PO ONCE 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing  
3.  Furosemide 20 mg PO DAILY  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  LORazepam 0.5 mg PO QHS  
6.  Sumatriptan Succinate 50 mg PO ONCE  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Myositis of unclear etiology
+cocaine in urine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because of leg pain, similar to a 
presentation that you've had in the past. You were initially 
started on antibiotics but these were stopped because you were 
stable and we weren't convinced that you had an infection. We 
had consulted our infectious disease and rheumatology doctors to 
___ to help figure out your lab abnormalities and muscle pain. 
As part of our workup, we checked a toxicology screen, which was 
positive for cocaine. Cocaine can sometimes lead to problems 
with muscles. As a result, we felt obligated to perform a room 
search to protect your safety and for the safety of other 
patients. You chose to leave the hospital against medical 
advice. You were informed of the gravity of this situation and 
understood.

If at any time you start feeling worse and choose to come back 
to care, please do not hesitate to come to the ED.

- Your ___ Team
 
Followup Instructions:
___